US08871774B2
Formation of 5-chloro-3-iodo-1-trityl-1H-pyrazolo[3,4-b]pyridine (32)
To a stirred mixture of 5-chloro-3-iodo-1H-pyrazolo[3,4-b]pyridine, 31, (11.6 g, 38.5 mmol), and Na2CO3 (12.2 g, 115 mmol) in N,N-dimethylformamide (200 mL) was added trityl chloride (11.8 g, 42.4 mmol). The mixture was stirred at room temperature overnight. After 16 hr, additional trityl chloride (1.61 g, 5.78 mmol) was added. And the mixture was heated to 60° C. for 45 min. The mixture was cooled, diluted with Et2O, washed with water (2×), brine (2×), dried over Na2SO4, filtered and concentrated in vacuo. Flash chromatography (SiO2, 0-40% EtOAc-Hexanes, gradient elution) provided the desired product as a colorless material which was further purified by flash chromatography (SiO2, 100% DCM, isocratic elution): 1H NMR (300 MHz, CDCl3) δ 8.15 (d, J=2.3 Hz, 1H), 7.70 (d, J=2.3 Hz, 1H) and 7.23-7.18 (m, 15H) ppm.

reactant | 5-chloro-3-iodo-1H-pyrazolo[3,4-b]pyridine | ClC=1C=C2C(=NC1)NN=C2I | C6H3ClIN3
reactant | Na2CO3 | 115 mmol, 12.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | trityl chloride | 42.4 mmol, 11.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | trityl chloride | 5.78 mmol, 1.61 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | 5-chloro-3-iodo-1-trityl-1H-pyrazolo[3,4-b]pyridine | ClC=1C=C2C(=NC1)N(N=C2I)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H17ClIN3
